US06313122B1
A. N1-(4-Methoxybenzoyl)-N2-[1-(tert-butoxycarbonyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine
A solution of 1.9 M phosgene in toluene (2.0 mL) was treated with 1-(tert-butoxycarbonyl)-4-hydroxymethylpiperidine (200 mg, 0.930 mmol). After 1 h, the mixture was concentrated in vacuo and the residue dried under high vacuum for 4 h. The residue was dissolved in methylene chloride (2.5 mL) and then added dropwise to a solution of N1-(4-methoxybenzoyl)-1,2-benzenediamine (230 mg, 0.950 mmol) and pyridine (0.4 mL) in methylene chloride (5 mL) and tetrahydrofuran (1 mL). After 16 h, the mixture was poured into a mixture of water and ethyl acetate. The organic layer was washed once with 1.0 N aqueous hydrochloric acid, once with saturated sodium chloride solution, dried (potassium carbonate), and filtered. Concentration and purification of the residue by flash chromatography (silica gel, ethyl acetate/hexanes) yielded 416 mg (93%) of the title compound.

reactant | phosgene | 1.9 M | C(=O)(Cl)Cl | CCl2O
reactant | 1-(tert-butoxycarbonyl)-4-hydroxymethylpiperidine | 0.930 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine | 0.950 mmol, 230 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
reactant | pyridine | 0.4 mL | N1=CC=CC=C1 | C5H5N
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N1-(4-Methoxybenzoyl)-N2-[1-(tert-butoxycarbonyl)piperidin-4-ylmethoxycarbonyl]-1,2-benzenediamine | 416 mg, 93% | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)OC(C(=O)OC(C)(C)C)C2CCNCC2)C=C1 | C26H33N3O6
